US05948780
(S)-4-Phenyl-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-butyric acid;
(R)-3-(1H-Indol-3-yl)-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid, disodium salt, monohydrate;

reactant | (R)-3-(1H-Indol-3-yl)-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-propionic acid | N1C=C(C2=CC=CC=C12)C[C@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C28H29N3O4S
reactant | disodium | [Na][Na] | 2Na
product | (S)-4-Phenyl-2-[4-(4-phenyl-piperidin-1-yl)-benzenesulfonylamino]-butyric acid | C1(=CC=CC=C1)CC[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1=CC=CC=C1 | C27H30N2O4S
